US04859670
A mixture of 4.94 g (14.5 mmol) of 1-(4-hydroxyphenyl)piperazine dihydrobromide, 3.29 g (14 mmol) of 4-chloromethyl-6-methoxy-2-phenylpyrimidine and 2.00 g (14.5 mmol) of powdered potassium carbonate in 50 ml of absolute N,N-dimethylformamide (DMF) was warmed to 80° C., and 322 mg of powdered K2CO3 were added with stirring under a nitrogen atmosphere in each case after 10 minutes, after a further 25 minutes, and after a further 60 minutes (total addition of 966 mg (7 mmol) of K2CO3). The mixture was stirred for a further 2.5 hours at 80° C., the DMF was substantially removed by distillation in an oil-pump vacuum in a rotary evaporator, the crystalline residue was mixed with 40 ml of water and 50 ml of CH2Cl2, the pH of the mixture was adjusted to 5-6 using 2N HCl, the phases were separated, and the aqueous phase was extracted three times with CH2Cl2. The combined CH2Cl2 extracts were dried, filtered and evaporated in vacuo. The residue (4.25 g) was chromatographed on a silica gel S/CH2Cl2 column (diameter 2.0 cm, height 23 cm) by elution with CH2Cl2 and CH2Cl2 /C2H5OH mixtures, with increasing C2H5OH content (to a maximum of 4% by volume of C2H5OH). The fractions which were unary according to TLC were combined and crystallized from CH3OH. In this fashion 3.06 g (=58% yield) of 4-(4-hydroxyphenyl)-1-(6-methoxy-2-phenylpyrimidin-4-yl-methyl)piperazine were obtained; melting point 166°-67° C., analysis: C22H24N4O2 (MW 376.46) calc. C 70.19, H 6.43, N 14.88; found C 69.9, H 6.4, N 14.5%.

reactant | 1-(4-hydroxyphenyl)piperazine dihydrobromide | 14.5 mmol, 4.94 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
reactant | 4-chloromethyl-6-methoxy-2-phenylpyrimidine | 14 mmol, 3.29 g | ClCC1=NC(=NC(=C1)OC)C1=CC=CC=C1 | C12H11ClN2O
reactant | potassium carbonate | 14.5 mmol, 2.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | K2CO3 | 322 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 7 mmol, 966 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(4-hydroxyphenyl)-1-(6-methoxy-2-phenylpyrimidin-4-yl-methyl)piperazine | 3.06 g, 58% yield | OC1=CC=C(C=C1)N1CCN(CC1)CC1=NC(=NC(=C1)OC)C1=CC=CC=C1 | C22H24N4O2
